US03936454
6-Chloro-9-(3,4-dimethoxybenzyl)purine
To a suspension of 15.6 g (52.8 mmols) of 5-amino-4-chloro-6-(3,4-dimethoxybenzylamino)pyrimidine in 100 ml of triethyl orthoformate was added 149 mg (1.36 mmols) of ethanesulfonic acid and the resulting mixture was heated at 80° for 15 min. Upon cooling and addition of hexane to the reaction mixture, a yellow precipitate formed which was collected by filtration; yield, 15.4 g (95.6%) mp 159°-163°. Recrystallization from EtOH--H2O gave the analytical sample; yield 13.2 g (82.2%) mp 160°-164°.

reactant | 5-amino-4-chloro-6-(3,4-dimethoxybenzylamino)pyrimidine | 52.8 mmols, 15.6 g | NC=1C(=NC=NC1NCC1=CC(=C(C=C1)OC)OC)Cl | C13H15ClN4O2
reactant | ethanesulfonic acid | 1.36 mmols, 149 mg | C(C)S(=O)(=O)O | C2H6O3S
reactant | hexane | CCCCCC | C6H14
solvent | triethyl orthoformate | 100 ml | C(OCC)(OCC)OCC | C7H16O3
product | 6-Chloro-9-(3,4-dimethoxybenzyl)purine | ClC1=C2N=CN(C2=NC=N1)CC1=CC(=C(C=C1)OC)OC | C14H13ClN4O2
